US07906530B2
a) (4-Bromo-3-methylphenyl)amine
Activated Raney Nickel® (0.4 g) was added to a suspension of 1-bromo-2-methyl-4-nitrobenzene (4 g, 18.51 mmol) in 200 mL of methanol and the mixture was stirred under hydrogen atmosphere (30 psi) for 3 hours. After this time, the reaction mixture was filtered through Celite®, the solvent eliminated under reduced pressure and the residue dried under vacuum to afford the title compound (3.4 g, 99%) as a white solid.

reactant | 1-bromo-2-methyl-4-nitrobenzene | 18.51 mmol, 4 g | BrC1=C(C=C(C=C1)[N+](=O)[O-])C | C7H6BrNO2
catalyst | Raney Nickel | [Ni] | Ni
solvent | methanol | 200 mL | CO | CH4O
product | (4-Bromo-3-methylphenyl)amine | 3.4 g, 99% | BrC1=C(C=C(C=C1)N)C | C7H8BrN
